US06653334B1
Synthesis of 3-[3-(1-tert-Butoxycarbonyl-1-methylethoxy)phenyl]propionic Acid
tert-Butyl 2-[3-[2-(ethoxycarbonyl)ethyl]phenoxy]-2-methylpropionate (37.1 g, 0.11 mmol) was dissolved in ethanol. Subsequently, aqueous 10% potassium hydroxide solution was added dropwise, and the mixture was stirred overnight at room temperature. The resultant mixture was concentrated under reduced pressure, and then an aqueous 5% potassium hydrogensulfate solution was added thereto. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine. The mixture was subjected to drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (n-hexane/ethyl acetate=3/2), whereby the target compound was obtained (32.0 g, 94%).

reactant | tert-Butyl 2-[3-[2-(ethoxycarbonyl)ethyl]phenoxy]-2-methylpropionate | 0.11 mmol, 37.1 g | C(C)OC(=O)CCC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C19H28O5
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[3-(1-tert-Butoxycarbonyl-1-methylethoxy)phenyl]propionic Acid | C(C)(C)(C)OC(=O)C(C)(OC=1C=C(C=CC1)CCC(=O)O)C | C17H24O5
